** sch_path: /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/imp_boost_tech.sch
.subckt imp_boost_tech phi1 vinp phi2 vinm phi3 vop phi4 vom gnd bv VICM_REF VCM_REF vdd
*.PININFO vinp:B vinm:B vop:B vom:B phi1:B phi2:B phi3:B phi4:B VICM_REF:B bv:B gnd:B vdd:B VCM_REF:B
C3 net6 net5 cap_cmim w=26e-6 l=12.8e-6 m=1
C4 net5 net6 cap_cmim w=26e-6 l=12.8e-6 m=1
C5 net3 net4 cap_cmim w=26e-6 l=12.8e-6 m=1
C6 net4 net3 cap_cmim w=26e-6 l=12.8e-6 m=1
C7 net10 net9 cap_cmim w=5.7e-6 l=5.7e-6 m=1
C8 net9 net10 cap_cmim w=5.7e-6 l=5.7e-6 m=1
C9 net7 net8 cap_cmim w=5.7e-6 l=5.7e-6 m=1
C10 net8 net7 cap_cmim w=5.7e-6 l=5.7e-6 m=1
C1 vom gnd cap_cmim w=98u l=98u m=1
C2 vop gnd cap_cmim w=98u l=98u m=1
x8 phi1 net1 vinp phi2 net2 vinm gnd CHOPPER
x1 phi3 net5 net1 phi4 net4 net2 gnd CHOPPER
x3 phi3 ota_vinp net6 phi4 ota_vinm net3 gnd CHOPPER
x4 phi1 net9 ota_vinp phi2 net8 ota_vinm gnd CHOPPER
x5 phi1 ota_vop net10 phi2 ota_vom net7 gnd CHOPPER
x6 phi1 vom ota_vop phi2 vop ota_vom gnd CHOPPER
x7 vdd VCM_REF ota_vop ota_vom gnd bv ota_vinm ota_vinp VICM_REF Differntial_ended_symbol_making
.ends

* expanding   symbol:
*+  /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/CHOPPER.sym # of pins=7
** sym_path: /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/CHOPPER.sym
** sch_path: /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/CHOPPER.sch
.subckt CHOPPER PHIA OUT_A IN_A PHIB OUT_B IN_B GND
*.PININFO IN_A:B IN_B:B OUT_B:B OUT_A:B PHIA:B PHIB:B GND:B
M1 OUT_A PHIA IN_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M2 OUT_B PHIA IN_B GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M3 OUT_B PHIB IN_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M4 IN_B PHIB OUT_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:
*+  /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/Differntial_ended_symbol_making.sym # of pins=9
** sym_path: /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/Differntial_ended_symbol_making.sym
** sch_path: /home/designer/shared/unicass_2026/Design_Files/github_clone_circuit_/UNI-CASS_Project_2025_IIT_DH/Differntial_ended_symbol_making.sch
.subckt Differntial_ended_symbol_making vdd vcm_ref vom vop gnd b_v vinm vinp VICM_REF
*.PININFO b_v:B vinm:B vcm_ref:B vinp:B vop:B vom:B gnd:B vdd:B VICM_REF:B
M7 vop nbias gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=2
M8 vop vinm tail vdd sg13_hv_pmos w=4.5u l=1u ng=1 m=2
M9 vom nbias gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=2
M10 vom vinp tail vdd sg13_hv_pmos w=4.5u l=1u ng=1 m=2
M11 tail b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M6 net1 net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M13 net1 vop tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M14 nbias net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M15 nbias vcm_ref tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.5u ng=1 m=2
M16 tail_cmfb b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M17 net1 vom tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M1 b_v b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1
C1 nbias gnd cap_cmim w=14.0e-6 l=50.0e-6 m=1
M2 VICM_REF vinm vinm vdd sg13_hv_pmos w=50u l=1u ng=5 m=1
M3 VICM_REF vinp vinp vdd sg13_hv_pmos w=50u l=1u ng=5 m=1
M4 vdd vdd vdd vdd sg13_hv_pmos w=4.5u l=0.4u ng=1 m=4
M5 gnd gnd gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=4
.ends

