* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 06:49

.SUBCKT and gnd A B VDD
M$1 gnd \$4 \$5 gnd sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$2 gnd B \$2 gnd sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$3 \$2 A \$4 gnd sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$4 VDD B \$4 VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$5 \$4 A VDD VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$6 VDD \$4 \$5 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
.ENDS and
